US05681833
6: N-[3(R,S)-5-Cycloheptyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-[(1H-imidazol-2-ylamino)methyl]phenyl]urea
To a solution of N-[3(R,S)-5-cycloheptyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-[(1-(tert-butyloxycarbonyl)imidazol-2-ylamino]methyl)phenyl] urea in anhydrous dichloromethane (5 ml) at room temperature, under nitrogen, was added trifluoroacetic acid (0.5 ml). After stirring for 3 h the solvent was evaporated in vacuo and the residue azeotroped with toluene (20 ml). The residue was partitioned between ethyl acetate (20 ml) and water (20 ml). The organic layer was separated, washed with 0.5M sodium carbonate solution (2×20 ml) and water (20 ml), then the organic layer separated and dried (Na2SO4). The solvent was evaporated and the residue chromatographed on silica gel using a gradient elution of dichloromethane:methanol (90:10) followed by methanol to afford the title compound (33 mg) as a white solid. 1H NMR (360 MHz, D6 -DMSO) δ 1.12-1.80 (11H, m), 1.92-1.97 (1H, m), 3.10-3.18 (1H, m), 3.32 (3H, s), 4.25 (2H, d, J=6.2 Hz), 5.04 (1H, d, J=8.4 Hz) 6.42 (1H, m), 6.49 (2H, s), 6.87 (1H, d, J=7.6 Hz), 7.14 (1H, t, J=7.9 Hz), 7.23-7.29 (3H, m), 7.37 (1H, dd, J=7.2 and 7.2 Hz), 7.54 (1H, m), 7.63 (1H, dd, J=7.1 and 7.1 Hz), 7.76 (1H, d, J=6.7 Hz), 8.95 (1H, s). MS (FAB) 500 (M+1).

reactant | N-[3(R,S)-5-cycloheptyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-[(1-(tert-butyloxycarbonyl)imidazol-2-ylamino]methyl)phenyl] urea | C1CCCC(CC1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)CNC=2N(C=CN2)C(=O)OC(C)(C)C | C33H41N7O4
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3(R,S)-5-Cycloheptyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-[(1H-imidazol-2-ylamino)methyl]phenyl]urea | 33 mg | C1CCCC(CC1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)CNC=2NC=CN2 | C28H33N7O2
